US08536187B2
A mixture of N-tert-butyl-5-cyano-2-fluoro-benzenesulfonamide (0.3 g) and Pd/C (50 mg) in 1N HCl/EtOH (1 ml 1N HCl in 10 ml EtOH) was stirred under H2 for 2 hours. The reaction mixture was filtered through a pad of diatomaceous earth, washed with MeOH and concentrated to about 3 ml. The residue was diluted with H2O and lyophilized to give 5-aminomethyl-N-tert-butyl-2-fluoro-benzenesulfonamide (0.27 g, 90% yield) as a white powder.

reactant | N-tert-butyl-5-cyano-2-fluoro-benzenesulfonamide | 0.3 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)C#N)F | C11H13FN2O2S
solvent | HCl EtOH | 1N, 1 ml | Cl.CCO
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 5-aminomethyl-N-tert-butyl-2-fluoro-benzenesulfonamide | 0.27 g, 90% yield | NCC=1C=CC(=C(C1)S(=O)(=O)NC(C)(C)C)F | C11H17FN2O2S
